US04632993
2-Guanidino-4-(2-methyl-4-imidazolyl)thiazole (Free Base)
2-Guanidino-4-(2-methyl-4-imidazolyl)thiazole monohydrobromide (360.7 g, 1.19 mole; U.S. Pat. No. 4,374,843) was slurried in 7500 ml H2O for 15 minutes at 19° C. With stirring, the pH was slowly adjusted from 5.8 to a stable value of 9.5 with 10% NaOH, 500±5 ml being required. After stirring a further 0.5 hours, title product was recovered by filtration on sintered glass. The sticky cake was washed with 2000 ml H2O, pulled to a tight cake and finally washed with 1000 ml of hexane. After air drying on the funnel for 18 hours, the entire still-partially-wet cake was taken into the next step.

reactant | 2-Guanidino-4-(2-methyl-4-imidazolyl)thiazole monohydrobromide | Br.N(C(=N)N)C=1SC=C(N1)C=1N=C(NC1)C
reactant | NaOH | [OH-].[Na+]
solvent | H2O | 7500 ml | O | H2O
product | 2-Guanidino-4-(2-methyl-4-imidazolyl)thiazole | N(C(=N)N)C=1SC=C(N1)C=1N=C(NC1)C | C8H10N6S
